US04478849
1-(4-Carbobenzyloxyphenyl)propan-2-one
4-Acetonylbenzoyl chloride (3.92 g) and benzyl alcohol (2.16 g) were refluxed in benzene for 4 hours and then left at room temperature for 48 hours. Removal of the solvent gave the title compound. τ (CDCl3) 7.9 (3H, s), 6.32 (2H, s), 4.69 (2H, s), 2.78 (2H, d, J=8 Hz), 2.70 (5H, m), 1.99 (2H, d, J=8 Hz).

reactant | 4-Acetonylbenzoyl chloride | 3.92 g | C(C(=O)C)C1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
reactant | benzyl alcohol | 2.16 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4-Carbobenzyloxyphenyl)propan-2-one | C(=O)(OCC1=CC=CC=C1)C1=CC=C(C=C1)CC(C)=O | C17H16O3
